US07981874B2
1,1-dimethylethyl [2-({[4-(bromomethyl)phenyl]carbonyl}amino)-4-(2-thienyl)phenyl]carbamate (500 mg, 1.026 mmol), diethyl (aminomethyl)phosphonate oxalate (791 mg, 3.08 mmol), and DIPEA (1.254 mL, 7.18 mmol) were stirred in DMF (6 mL) at 50° C. overnight. Room temperature was attained, H2O: was added and the products extracted into EtOAc (×2). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. Purification of the residue by MPLC (0-10% MeOH-EtOAc) gave diethyl [({[4-({[2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]methyl}amino)methyl)phosphonate as a colourless gum. MS: cal'd 574 (MH+), exp 574.

reactant | 1,1-dimethylethyl [2-({[4-(bromomethyl)phenyl]carbonyl}amino)-4-(2-thienyl)phenyl]carbamate | 1.026 mmol, 500 mg | BrCC1=CC=C(C=C1)C(=O)NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O | C23H23BrN2O3S
reactant | diethyl (aminomethyl)phosphonate oxalate | 3.08 mmol, 791 mg | C(C(=O)O)(=O)O.NCP(OCC)(OCC)=O
reactant | DIPEA | 7.18 mmol, 1.254 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | H2O | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | diethyl [({[4-({[2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]methyl}amino)methyl)phosphonate | CC(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C=C1)CNCP(OCC)(OCC)=O | C28H36N3O6PS
